US09169209B2
A: 4-nitro-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide
To a pre-cooled solution of 2-(trifluoromethoxy)aniline (1.8 g, 10.16 mmol) in pyridine (20 ml) was added 4-nitrobenzene-1-sulfonyl chloride (2.252 g, 10.16 mmol) in 5-10 mL of pyridine at 0° C. slowly. The reaction mixture was stirred and heated to 85° C. for 3 h, then cooled down to 45° C. and stirred at the same temperature over weekend. The solvent was removed under reduced pressure. The residue was diluted with methylene chloride and washed with 1N HCl (×2), water (×2), and brine. The organic layer was separated, dried with anhydrous Na2SO4, filtered and concentrated under reduced pressure to give 2.82 g of title product.

reactant | 2-(trifluoromethoxy)aniline | 10.16 mmol, 1.8 g | FC(OC1=C(N)C=CC=C1)(F)F | C7H6F3NO
reactant | 4-nitrobenzene-1-sulfonyl chloride | 10.16 mmol, 2.252 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5-10 mL | N1=CC=CC=C1 | C5H5N
product | 4-nitro-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide | 2.82 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC(F)(F)F | C13H9F3N2O5S
